US08895497B2
tert-Butyl N-[(1R)-2-(benzyloxy)-1-(hydroxymethyl)ethyl]carbamate (1.2 g, 4.3 mmole) was dissolved in CH2Cl2 (40 mL). Dess-Martin periodinane (2.4 g, 5.5 mmole) was added. The solution was stirred for 2 h at room temperature and then quenched with Na2S2O3 and saturated bicarbonate solution. After extracting with CH2Cl2, the organic layer was dried over MgSO4, filtered, and concentrated by rotary evaporation. Purification by chromatography (silica, 4/1: Hexane/EtOAc, Rf=0.4) afforded (S)-tert-butyl 1-(benzyloxy)-3-oxopropan-2-ylcarbamate as a white solid (1.1 g, 96%).

reactant | tert-Butyl N-[(1R)-2-(benzyloxy)-1-(hydroxymethyl)ethyl]carbamate | 4.3 mmole, 1.2 g | C(C1=CC=CC=C1)OC[C@@H](CO)NC(OC(C)(C)C)=O | C15H23NO4
reactant | Dess-Martin periodinane | 5.5 mmole, 2.4 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(benzyloxy)-3-oxopropan-2-ylcarbamate | 1.1 g, 96% | C(C1=CC=CC=C1)OC[C@@H](C=O)NC(OC(C)(C)C)=O | C15H21NO4
